US04481217
(a) Ethyl (E)-2-cyano-3,7,11-trimethyl-6,10-dodecadienoate
In 200 ml. of benzene was dissolved 50 g. of geranyl acetone, and then 42 g. of ethyl cyanoacetate, 6 g. of ammonium acetate and 6 g. of acetic acid were added to the solution. The mixture was then refluxed for 8 hours while removing the produced water. The reaction mixture was washed with water and dried. To this was added dropwise a solution of 5.7 g. of sodium borohydride in 40 ml. of ethanol, under stirring and at 10°-20° C. The stirring was continued for 1 hour. Then, 60 ml. of 10% acetic acid was added to the reaction mixture, and the mixture was subsequently washed with water and dried. The solvent was then removed by evaporation and the residue was purified by silica gel column chromatography to obtain 59 g. of the desired oily product.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | geranyl acetone | C(\C=C(/C)\CCC=C(C)C)CC(C)=O | C13H22O
reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Ethyl (E)-2-cyano-3,7,11-trimethyl-6,10-dodecadienoate | C(#N)C(C(=O)OCC)C(CC\C=C(\CCC=C(C)C)/C)C | C18H29NO2
